US06686381B2
2-Bromo-1-(4-methyl-pyridin-3-yl)-ethanone Hydrobromide
The title compound was synthesised according to Example E 1-(4-methyl-pyridin-3-yl)-ethanone and HBr/bromine in 85% yield as grey solid. MS (m/e): 214.0 (M+H, 100%).

reactant | 1-(4-methyl-pyridin-3-yl)-ethanone | CC1=C(C=NC=C1)C(C)=O | C8H9NO
reactant | HBr bromine | Br.BrBr
product | 2-Bromo-1-(4-methyl-pyridin-3-yl)-ethanone Hydrobromide | 85% yield | Br.BrCC(=O)C=1C=NC=CC1C | InChI=1S/C8H8BrNO.BrH/c1-6-2-3-10-5-7(6)8(11)4-9;/h2-3,5H,4H2,1H3;1H
